US08981127B2
2-Chloro-1-(6-fluoro-1-benzopyran-2-yl)-ethanol (2.5 g, 9.20 mmol, 84.9% A) was dissolved in i-PrOH (25 ml) under nitrogen and the reaction mixture cooled to 0° C. A 2M aqueous solution of NaOH (12.5 ml) was added to the solution over 5 min and the reaction was stirred for 1 hour 30 min. The reaction mixture was then diluted with toluene (50 ml) and the pH corrected with acetic acid (0.92 g). Toluene (50 ml) and demineralized water (10 ml) were then added to the mixture and the phases separated after extraction. The collected organic phases were then washed with demineralized water (50 ml). The toluene phase was then anhydrified by azeotropic distillation and concentrated until dryness in a rotary evaporator to give 6-Fluoro-2-oxiranyl-1-benzopyran as a mixture of diastereoisomers 52:48 (2.0 g, 96% yield, 86.1% A).

reactant | 2-Chloro-1-(6-fluoro-1-benzopyran-2-yl)-ethanol | 9.20 mmol, 2.5 g | ClCC(O)C1OC2=C(C=C1)C=C(C=C2)F | C11H10ClFO2
reactant | NaOH | 12.5 ml | [OH-].[Na+]
reactant | acetic acid | 0.92 g | C(C)(=O)O | C2H4O2
reactant | water | 10 ml | O | H2O
solvent | i-PrOH | 25 ml | CC(C)O | C3H8O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | Toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 6-Fluoro-2-oxiranyl-1-benzopyran | 96% yield | FC=1C=CC2=C(C=CC(O2)C2OC2)C1 | C11H9FO2
